US08283353B2
2-[(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]propanamide
A mixture of 2-[(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]propanoic acid (1.1 g), 1-hydroxybenzotriazole ammonium salt (0.42 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.47 g) and N,N-dimethylformamide (10 mL) was stirred at room temperature for 15 hr. The reaction mixture was diluted with ethyl acetate, washed with dilute hydrochloric acid and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.8 g, 73%).

reactant | 2-[(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]propanoic acid | 1.1 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OC(C(=O)O)C)=O | C31H33N5O4
reactant | 1-hydroxybenzotriazole ammonium salt | 0.42 g | [NH4+].ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.47 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]propanamide | 0.8 g, 73% | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OC(C(=O)N)C)=O | C31H34N6O3
